US07470723B2
A stirred mixture of 4-bromo-2-ethoxy-1-methoxy-benzene (6.52 g, 28.2 mmol) and dry THF (40 mL) was cooled to −78° C., evacuated and refilled with nitrogen for 10 cycles. To this clear solution was slowly added n-butyllithium (11.3 mL, 28.2 mmol) and stirred for 30 min. Then a mixture of 3-ethoxy-4-methoxy-benzaldehyde (4.62 g, 25.7 mmol) in dry THF (60 mL) was added and stirred for 1 h at −78° C. The mixture was quenched with isopropanol (11.7 mL, 154 mmol) and added water (30 mL). It was extracted with ether (3×50 mL). The combined organic phases were washed with water (2×50 mL), dried over MgSO4 and concentrated to an oil, which was purified by flash column chromatography (EtOAc/Hexane) to give bis-(3-ethoxy-4-methoxy-phenyl)-methanol as an oil (8.85 g, 100% yield): 1H NMR (CDCl3) δ 1.44 (t, J=7 Hz, 6H, 2CH2CH3), 2.12 (d, J=4 Hz, 1H, OH), 3-0.86 (s 6H, 2OCH3), 4.06 (q, J=7 Hz, 4H, 2CH2CH3), 5.74 (d, J=4 Hz, 1H, CH), 6.81-6.91 (m, 6H, Ar). The product was used in the next step without further purification.

reactant | 4-bromo-2-ethoxy-1-methoxy-benzene | 28.2 mmol, 6.52 g | BrC1=CC(=C(C=C1)OC)OCC | C9H11BrO2
reactant | n-butyllithium | 28.2 mmol, 11.3 mL | C(CCC)[Li]
reactant | 3-ethoxy-4-methoxy-benzaldehyde | 25.7 mmol, 4.62 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | isopropanol | 154 mmol, 11.7 mL | C(C)(C)O | C3H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | bis-(3-ethoxy-4-methoxy-phenyl)-methanol | 8.85 g, 100% yield | C(C)OC=1C=C(C=CC1OC)C(O)C1=CC(=C(C=C1)OC)OCC | C19H24O5
